* source EXP 1
V_V         N00067 0 10Vdc
R_R         0 N00067  3.3k TC=0,0 
R_R2         N00347 N00343  4.7k TC=0,0 
R_R3         0 N00347  5.6k TC=0,0 
R_R1         N00343 N00331  3.3k TC=0,0 
V_Vs         N00331 0 15Vdc
