* source EXP 5
V_Va1         N00099 0 5Vdc
R_Ra1         N00099 N00106  1k TC=0,0 
R_Ra2         N00106 0  3.3k TC=0,0 
R_Ra3         0 N00106  4.7k TC=0,0 
R_R6         0 N00504  4.7k TC=0,0 
R_R4         0 N00504  1k TC=0,0 
R_R5         N00504 N00508  3.3k TC=0,0 
R_Rc2         N00769 N00773  3.3k TC=0,0 
R_Rc3         0 N00769  4.7k TC=0,0 
R_Rc1         N00761 N00769  1k TC=0,0 
V_Vc1         N00761 0 5Vdc
V_Vb2         N00508 0 8Vdc
V_Vc2         N00773 0 8Vdc
