* source EXP 6
R_R1         0 N02104  47k TC=0,0 
R_R2         N02093 N02100  10k TC=0,0 
R_R3         N02100 N02104  1k TC=0,0 
R_R4         N02104 N02108  33k TC=0,0 
R_RL         0 N02100  22k TC=0,0 
V_V1         N02093 0 10Vdc
V_V2         N02108 0 5Vdc
